US06479487B1
2-Chloro-6-[(4-pentyl)phenylamino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 4-butylphenylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 4-butylphenylamine | C(CCC)C1=CC=C(C=C1)N | C10H15N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[(4-pentyl)phenylamino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)N(C1=CC=CC=C1)C(CCC)C | C21H26ClN5
